US07846964B2
A solution of (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pen-talen-4-yl)-ethanone (890 mg, 4.04 mmol) and 3,5-diethyl-4-hydroxy-benzaldehyde (900 mg, 5.05 mmol, Lit: G. Trapani, A. Latrofa, M. Franco, C. Altomare, E. Sanna, M. Usal, G. Biggio, G. Liso J. Med. Chem. 41 (1998) 1846-1854; G. G. Ecke, J. P. Napolitano, A. H. Bilbey, A. J. Kolka, J. Org. Chem. 22 (1957) 639-642) in ethanol (7.5 mL) and 5 N HCl in isopropanol (2.5 mL) is stirred at rt for 72 h. The mixture is diluted with EA and is washed with water. The sovent of the organic layer is evaporated, the residue is dissolved in ethanol, treated with Pd/C (200 mg, 10% Pd) and stirred at rt for 18 h under 1.8 bar H2. The mixture is filtered, the filtrate is concentrated and the crude product is purified by CC on silica gel eluting with heptane:EA 8:2 to give 3-(3,5-diethyl-4-hydroxy-phenyl)-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propan-1-one (1.05 g) as a yellow oil; LC-MS: tR=1.15 min, [M+1]+=383.25.

reactant | (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pen-talen-4-yl)-ethanone | 4.04 mmol, 890 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(C)=O)C | C13H16OS
reactant | 3,5-diethyl-4-hydroxy-benzaldehyde | C(C)C=1C=C(C=O)C=C(C1O)CC | C11H14O2
reactant | Usal | COC(=O)[C@H](CC1=CC=CC=C1)NC(=O)[C@H](CC(=O)O)N.Cl
reactant | HCl | 5 N | Cl | ClH
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | isopropanol | 2.5 mL | C(C)(C)O | C3H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-(3,5-diethyl-4-hydroxy-phenyl)-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propan-1-one | 1.05 g | C(C)C=1C=C(C=C(C1O)CC)CCC(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C24H30O2S
